US04170584
2-(2-Ethoxyethoxy)Ethyl Furoate
2-(2-Ethoxyethoxy) ethanol, carbitol solvent, 129 g (0.96 m), 90 g (0.8 m) furoic acid and 1 g dibutyltin dioctoate were heated with xylene to remove water by azeotropic distillation to acid number 1.4. Zylene removed by distillation at a pot temperature of 200° and product distilled. Carbitol furoate was collected in fraction 2, 121°-125°, 91% carbitol furoate by gc. Yield of carbitol furoate 144 g, 79%.

reactant | 2-(2-Ethoxyethoxy) ethanol | C(C)OCCOCCO | C6H14O3
reactant | carbitol solvent | CCOCCOCCO | C6H14O3
reactant | furoic acid | 90 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | dibutyltin dioctoate | 1 g | CCCCCCCC(=O)O[Sn](CCCC)(CCCC)OC(=O)CCCCCCC
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-Ethoxyethoxy)Ethyl Furoate | O1C(=CC=C1)C(=O)OCCOCCOCC | C11H16O5
